datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1ccc(Br)cc1C(=O)[O:21][H:20].O=C([C@@H]1O[C@H](Oc2ccc3[nH+]c(O)ccc3c2)[C@@H](O)[C@H](O)[C@H]1O)[O-:10]>>Cc1ccc(Br)cc1C(=O)[O-:21].O=C([C@@H]1O[C@H](Oc2ccc3[nH+]c(O)ccc3c2)[C@@H](O)[C@H](O)[C@H]1O)[O:10][H:20] 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH:10]C.O=C([O-])CCCCCCCCCC[NH2+:21][H:20]>>CC(C)C(C(=O)[O-])[NH+:10](C)[H:20].O=C([O-])CCCCCCCCCC[NH2:21] 10=20;20,21=21",
"CC(C)c1cc[n+:21]([H:20])cc1.O=[N+]([O-])c1cc(-c2ccccc2)ccc1[O-:10]>>CC(C)c1cc[n:21]cc1.O=[N+]([O-])c1cc(-c2ccccc2)ccc1[O:10][H:20] 10=20;20,21=21",
"CC(C)[NH:10]CCN.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)[NH+:10](CCN)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[N+](C)(C)c1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[N+](C)(C)c1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[N:10](CC)CCCCC#N.COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N+:21](CCC#N)([H:20])CC[C@@]341>>CC[N+:10](CC)(CCCCC#N)[H:20].COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N:21](CCC#N)CC[C@@]341 10=20;20,21=21",
"COc1ccc(C(=S)[N-:10]c2ccc(Br)cc2)cc1.C[N+](C)(C)CCCc1ccc([O:21][H:20])cc1>>COc1ccc(C(=S)[N:10](c2ccc(Br)cc2)[H:20])cc1.C[N+](C)(C)CCCc1ccc([O-:21])cc1 10=20;20,21=21",
"Cc1ccc(-c2c[n+:21]([H:20])c(-c3ccccc3)o2)cc1.O=Cc1ccc2ccccc2[n:10]1>>Cc1ccc(-c2c[n:21]c(-c3ccccc3)o2)cc1.O=Cc1ccc2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"C#CC(C)[NH:10]c1ccccc1.C#CCCCC(=O)[O:21][H:20]>>C#CC(C)[NH+:10](c1ccccc1)[H:20].C#CCCCC(=O)[O-:21] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1c(CN2CC[NH2+]CC[NH2+]CC2)n[nH]c1CN1CC[NH2+]CC[NH:10]CC1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1c(CN2CC[NH2+]CC[NH2+]CC2)n[nH]c1CN1CC[NH2+]CC[NH+:10]([H:20])CC1 10=20;20,21=21",
"NC(=NO)c1ncnc2nc[n:21]([H:20])c12.O=N/C(=N/[O-:10])c1ccccc1>>NC(=NO)c1ncnc2nc[n-:21]c12.O=N/C(=N/[O:10][H:20])c1ccccc1 10=20;20,21=21",
"CCC(C)(C)[NH+:21](C1CCCCC1)[H:20].COc1cccc(/C=N/[O-:10])c1>>CCC(C)(C)[NH:21]C1CCCCC1.COc1cccc(/C=N/[O:10][H:20])c1 10=20;20,21=21",
"C[S+](C)c1cccc([O-:10])c1.Nc1ccc([O:21][H:20])c2ncccc12>>C[S+](C)c1cccc([O:10][H:20])c1.Nc1ccc([O-:21])c2ncccc12 10=20;20,21=21",
"CC(C)[N:10](CCC(c1ccccc1)c1ccccn1)C(C)C.O=[N+]([O-])c1cccc([N:21](S(=O)(=O)c2ccccc2)[H:20])c1>>CC(C)[N+:10](CCC(c1ccccc1)c1ccccn1)(C(C)C)[H:20].O=[N+]([O-])c1cccc([N-:21]S(=O)(=O)c2ccccc2)c1 10=20;20,21=21",
"NCCNCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NCCNCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCN[N:10](CC)CC.N#CCC[NH+:21](c1ccccc1)[H:20]>>CCN[N+:10](CC)(CC)[H:20].N#CCC[NH:21]c1ccccc1 10=20;20,21=21",
"Cc1ccc([O:21][H:20])c2[n+]1CCS2.Nc1cncc[n:10]1>>Cc1ccc([O-:21])c2[n+]1CCS2.Nc1cncc[n+:10]1[H:20] 10=20;20,21=21",
"C(=N/[O:21][H:20])\c1ccccc1.Nc1ccc(S(=O)(=O)[N-:10]c2ccn(-c3ccccc3[N+](=O)[O-])n2)cc1>>C(=N/[O-:21])\c1ccccc1.Nc1ccc(S(=O)(=O)[N:10](c2ccn(-c3ccccc3[N+](=O)[O-])n2)[H:20])cc1 10=20;20,21=21",
"CN(C)CCC[N:10](C)C.NNC(=O)C[NH2+:21][H:20]>>CN(C)CCC[N+:10](C)(C)[H:20].NNC(=O)C[NH2:21] 10=20;20,21=21",
"CC#C/C=C/C(=O)[O-:10].COc1c(C=O)c(CO)c[n+:21]([H:20])c1C>>CC#C/C=C/C(=O)[O:10][H:20].COc1c(C=O)c(CO)c[n:21]c1C 10=20;20,21=21",
"CNc1c2nc(-c3ccc(S(C)=O)cc3OC)cn2cc[n:10]1.OCC1C[N+:21]2([H:20])CCC1CC2>>CNc1c2nc(-c3ccc(S(C)=O)cc3OC)cn2cc[n+:10]1[H:20].OCC1C[N:21]2CCC1CC2 10=20;20,21=21",
"CCOc1ccccc1/C=C/C(=O)[O:21][H:20].CC[N:10](CC)CC(=O)Nc1ccc(C)cc1C>>CCOc1ccccc1/C=C/C(=O)[O-:21].CC[N+:10](CC)(CC(=O)Nc1ccc(C)cc1C)[H:20] 10=20;20,21=21",
"CCCC[NH2+]CCC(=O)[O:21][H:20].CN/C=[NH+]/c1cccc(c2csc(N=C(N)N)[n:10]2)c1>>CCCC[NH2+]CCC(=O)[O-:21].CN/C=[NH+]/c1cccc(c2csc(N=C(N)N)[n+:10]2[H:20])c1 10=20;20,21=21",
"CCCCCCCC[NH:10]CCC(=O)[O-].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCCCCCCC[NH+:10](CCC(=O)[O-])[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"COc1ccc(N)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:21]2(Cc1ccccc1)[H:20].c1n[nH]cc1[NH2:10]>>COc1ccc(N)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:21]2Cc1ccccc1.c1n[nH]cc1[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)(C)[NH:10]CCO.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)(C)[NH+:10](CCO)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[NH2+]CCC[NH+:21](C)[H:20].NC(Cc1nc[n-:10]c1I)C(=O)[O-]>>C[NH2+]CCC[NH:21]C.NC(Cc1nc[n:10]([H:20])c1I)C(=O)[O-] 10=20;20,21=21",
"Cc1cc(C(C)C)ccc1[O-:10].O=[N+]([O-])c1ccc2[nH]c(-c3cccs3)[n+:21]([H:20])c2c1>>Cc1cc(C(C)C)ccc1[O:10][H:20].O=[N+]([O-])c1ccc2[nH]c(-c3cccs3)[n:21]c2c1 10=20;20,21=21",
"Cc1ccc([NH2+:21][H:20])cc1C.Nc1cc[n:10]c(-c2cccc(Cl)n2)c1>>Cc1ccc([NH2:21])cc1C.Nc1cc[n+:10]([H:20])c(-c2cccc(Cl)n2)c1 10=20;20,21=21",
"CC(C)(C)c1ccc2c(c1)C(=O)[N-:10]C2=O.[NH3+]C(Cc1c[nH]c[n+:21]1[H:20])C(=O)NCC(=O)[O-]>>CC(C)(C)c1ccc2c(c1)C(=O)[N:10]([H:20])C2=O.[NH3+]C(Cc1c[nH]c[n:21]1)C(=O)NCC(=O)[O-] 10=20;20,21=21",
"C#CCCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C#CCCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCCCCCCCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCCCCCCCCCCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
